US08138197B2
Ethyl 1-cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylate
In a 100-mL egg plant-type flask, sodium azide (486 mg, 7.48 mmol) was added to a DMF (10 mL) solution of ethyl 4-cyano-1-cyclopropyl-1H-indole-6-carboxylate (475 mg, 1.87 mmol) and triethylamine hydrochloride (1.03 g, 7.48 mmol), and stirred overnight at 110° C. The reaction solution was diluted with ethyl acetate, made acidic with aqueous hydrochloric acid solution added thereto, and the separated organic layer was washed with water and saturated saline water in that order, dried with sodium sulfate, filtered and concentrated. The crude product was washed with hexane to obtain the title compound as a colorless solid.

reactant | sodium azide | 7.48 mmol, 486 mg | [N-]=[N+]=[N-].[Na+]
reactant | ethyl 4-cyano-1-cyclopropyl-1H-indole-6-carboxylate | 1.87 mmol, 475 mg | C(#N)C1=C2C=CN(C2=CC(=C1)C(=O)OCC)C1CC1 | C15H14N2O2
reactant | triethylamine hydrochloride | 7.48 mmol, 1.03 g | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylate | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)OCC)C1=NN=NN1 | C15H15N5O2
